US04115396
A quantity (1.94 g., 0.01 mole) of 4-chloro-2,6-lutidine-1-oxide hydrochloride with 6 ml. piperidine, and 10 ml. water were sealed in a reinforced bottle and heated, with stirring, in an oil bath at the temperature 155° to 160° C. for 41/2 hrs. After cooling the reaction mixture to 25° C. and diluting it with 25 ml. water, several portions of chloroform were used to extract the objective product. The chloroform extracts were combined, dried over anhydrous sodium sulfate, treated with charcoal, and filtered. The filtrate was pale yellow. The chloroform was removed by evaporation under reduced pressure. The solid residue thus obtained was triturated with technical hexane (Skellysolve B, a mixture of isomeric hexanes having a boiling range between 142° and 156° F.) and then crystallized from about 10 ml. ethyl acetate. There was thus obtained 1.06 g. (50% yield) of 4-piperidino-2,6-lutidine-1-oxide as buff-colored crystals having a melting point at 87° to 90° C.

reactant | 4-chloro-2,6-lutidine-1-oxide hydrochloride | 0.01 mole, 1.94 g | Cl.ClC=1C=C([N+](=C(C1)C)[O-])C
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-piperidino-2,6-lutidine-1-oxide | 50% yield | N1(CCCCC1)C=1C=C([N+](=C(C1)C)[O-])C | C12H18N2O
